US04515948
A suspension of 33 g. of dimethylsulfone and 11 g. of sodium hydride (50% dispersion in oil) in 160 ml. of absolute dimethylsulfoxide was stirred at 50° C. under an atmosphere of nitrogen and the exclusion of moisture for 3 hours. Then, 18 g. of 4-amino-3,5-dimethyl-benzoic acid methyl ester were added. The mixture was stirred at 80° C. for 30 minutes and at room temperature for 1 hour and then dissolved in 400 ml. of water. The solution was neutralized with glacial acetic acid. The precipitate which formed was removed by filtration with suction, washed with water, dried and recrystallized from ethyl acetate, whereby there was obtained 4'-amino-3',5'-dimethyl-2-(methylsulfonyl)-acetophenone having a melting point of 179°-180° C.

reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4-amino-3,5-dimethyl-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C)N)C)=O | C10H13NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4'-amino-3',5'-dimethyl-2-(methylsulfonyl)-acetophenone | NC1=C(C=C(C=C1C)C(CS(=O)(=O)C)=O)C | C11H15NO3S
